US04885283
0.11 g (0.23 mmol) of (glutarimidomethyl)[(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid ethyl ester was dissolved in 4 ml of dicloromethane and the solution was stirred overnight in the presence of 2 ml of bromotrimethylsilane. The solvent was removed by evaporation and the residue was dissolved in 5 ml of acetone/water (9:1). The solvent was removed by evaporation and this treatment was repeated once more to give 0.1 g of (glutarimidomethyl)[(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid in the form of a foam.

reactant | (glutarimidomethyl)[(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid ethyl ester | 0.23 mmol, 0.11 g | C(C)OP(=O)(CC(CC(C)C)C(N[C@@H](CC(C)C)C(NC)=O)=O)CN1C(CCCC1=O)=O | C22H40N3O6P
reactant | bromotrimethylsilane | 2 ml | Br[Si](C)(C)C | C3H9BrSi
solvent | dicloromethane | 4 ml | ClCCl | CH2Cl2
product | (glutarimidomethyl)[(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid | 0.1 g | C1(CCCC(N1CP(O)(=O)CC(CC(C)C)C(N[C@@H](CC(C)C)C(NC)=O)=O)=O)=O | C20H36N3O6P
